Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ascites 
 
Major Surgical or Invasive Procedure:
paracentesis ___
pleurX placement ___

 
History of Present Illness:
___ hx T2DM on insulin, cirrhosis (suspect varices - on nadolol) 

c/b persistent ascites despite diuretics, HE, and suspected 
varices (on nadalol at home but receives liver care at ___), 
presenting with worsening SOB and abdominal distension.

The patient was admitted ___ for persistent ascites. She 
was
found to have ___ due to overdiuresis vs. HRS. Non response to
albumin and partial response to octreotide/midodrine suggested
presence of HRS. Renal was consulted. She was started on
outpatient midodrine prior to DC with Cr 1.9. She was also found
to have paracentesis growing strep viridans though PMNs did not
meet SBP criteria. She had no abdominal pain. "After discussion
with ID we proceeded to treat with IV ceftriaxone x5 days and 
75g
albumin on day 1 and 3 and then resumed her home cipro
prophylaxis." She was discharged for weekly paracentesis. Of
note, RUQUS here suggestive of clot and was not confirmed with
contrast imaging given her ___. Last para appears to be ___.

Changes:
- Started midodrine 
- Stopped lasix, spironolactone, nadolol due to ___
- stopped PPI and replaced with ranitidine due to possibility 
that it may make renal function worse 
- Held alendronate as use is not recommended when GFR <35, 
consider resuming if renal function improves

The patient subsequently started having worse abdominal swelling
and fullness without infectious symptoms, bleeding, or worsening
mental status. She went to follow-up at clinic and was referred
here for paracentesis due to dyspnea and abdominal fullness. At
the time of interview, she is comfortable. 

 
Past Medical History:
1. Cirrhosis (?___) followed at ___, esophageal varix noted in
___, c/b HE, recurrent ascites
2. Type 2 diabetes.
3. CKD stage 3
4. Osteoporosis.
5. Memory loss.

 
Social History:
___
Family History:
Father died in his ___ of an MI.  Mother died in her ___ of an 
MI.  She states that one of her brothers died during surgery. 
One of her daughters has a fatty liver and no history of 
diabetes in the family.
 
Physical Exam:
Admission Physical Exam:
========================
___ 0134 Temp: 97.9 PO BP: 104/51 R Lying HR: 73 RR: 20 O2
sat: 100% O2 delivery: @___ 
General: No apparent distress, comfortable
Pulmonary: Decreased breath sounds at the left lower lung fields
Cardiac: Soft systolic murmur throughout the precordium.  
Regular
rate and rhythm
Abdomen: Distended, nontender, soft, no rebound or guarding
Extremities: Warm well perfused, no lower extremity edema,
peripheral pulses intact bilaterally
Neuro: Knows her name and hospital, does not know the day of the
week.  However, she admits to some memory difficulties and is
able to say the days of the week backwards.  She knows why she 
is
in the hospital.

Discharge Physical Exam:
=========================
24 HR Data (last updated ___ @ ___
    RR: 16  
GENERAL: NAD, A&Ox3, lying in bed comfortably 
RESP: No accessory muscle usage
ABD: distended. 
Ext: Lower extremities warm without edema
SKIN: No jaundice

 
Pertinent Results:
Admission Labs:
===============
___ 09:51PM   ___ PO2-39* PCO2-29* PH-7.38 TOTAL 
CO2-18* BASE XS--6 INTUBATED-NOT INTUBA
___ 09:51PM   O2 SAT-68
___ 07:52PM   LACTATE-1.5
___ 07:49PM   GLUCOSE-258* UREA N-33* CREAT-1.7* 
SODIUM-129* POTASSIUM-5.3 CHLORIDE-100 TOTAL CO2-16* ANION 
GAP-13
___ 07:49PM   estGFR-Using this
___ 07:49PM   ALT(SGPT)-12 AST(SGOT)-37 LD(LDH)-176 ALK 
PHOS-114* TOT BILI-2.1*
___ 07:49PM   ALBUMIN-4.3
___ 07:49PM   WBC-3.7* RBC-2.88* HGB-8.6* HCT-27.2* MCV-94 
MCH-29.9 MCHC-31.6* RDW-16.8* RDWSD-58.2*
___ 07:49PM   NEUTS-68.1 LYMPHS-18.8* MONOS-10.1 EOS-1.9 
BASOS-0.8 IM ___ AbsNeut-2.51 AbsLymp-0.69* AbsMono-0.37 
AbsEos-0.07 AbsBaso-0.03
___ 07:49PM   PLT COUNT-117*
___ 07:49PM   ___ PTT-34.8 ___
___ 06:30PM ASCITES  TOT PROT-3.0 GLUCOSE-270
___ 06:30PM ASCITES  TNC-435* ___ POLYS-18* 
LYMPHS-58* ___ MACROPHAG-24*
___ 05:54PM URINE  HOURS-RANDOM UREA N-693
___ 05:54PM URINE  UHOLD-HOLD
___ 05:54PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:54PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR*
___ 05:54PM URINE  RBC-<1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 05:54PM URINE  HYALINE-18*
___ 05:54PM URINE  MUCOUS-RARE*

Pertinent Studies:
==================
___ Abd duplex u.s
Final Report 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) 
  
INDICATION:  ___ with abdominal pain, h/o cirrhosis// eval for 
PVT 
  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  Ultrasound done gallbladder in liver dated ___. 
  
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the 
liver is smooth. There is no focal liver mass. Nonocclusive 
thrombus is  
demonstrated at the distal main portal vein.  The central 
branches of the 
portal vein remain patent.  There is large volume ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. 
  CHD: 3 mm 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
SPLEEN:  Normal echogenicity. 
  Spleen length: 11.9 cm 
  
KIDNEYS:  Limited views of the kidneys show no hydronephrosis. 
  Right kidney: 9.2 cm 
  Left kidney: 10.3 cm 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION: 
  
  
1. Nonocclusive thrombus is demonstrated in the distal main 
portal vein.  The 
central branches of the portal vein remain patent. 
2. Cirrhosis with large volume ascites. 
3. Cholelithiasis without evidence of acute cholecystitis. 

CXR ___
Final Report 
EXAMINATION:  Chest:  Frontal and lateral views 
  
INDICATION:   ___ with dyspnea// eval for pna 
  
TECHNIQUE:  Chest:  Frontal and Lateral 
  
COMPARISON:  Multiple prior chest radiographs, most recently on 
___ 
  
FINDINGS:  
  
Lung volumes are low with persistent left basilar opacity, 
likely representing 
a combination of atelectasis and pleural effusion.  Findings are 
similar to 
prior allowing for differences in technique.  No pneumothorax.  
Cardiomediastinal silhouette is stable. 
  
IMPRESSION:  
  
Small left pleural effusion with left basal atelectasis.  Low 
lung volumes 
limits assessment. 

TTE ___
Poor image quality. Normal left ventricular wall thickness and 
biventricular cavity
sizes and regional/global systolic function.

PleurX drainage catheter ___
Successful peritoneal PleurX catheter placement 

Pertinent Labs:
===============
___ 06:30PM ASCITES TNC-435* ___ Polys-18* 
Lymphs-58* ___ Macroph-24*
___ 06:30PM ASCITES TotPro-3.0 Glucose-270
___ 09:40AM URINE Hours-RANDOM UreaN-766 Creat-176 Na-<20 
K-28

(No discharge labs)

 
Brief Hospital Course:
Summary:
========
___ yo F PMHx T2DM on insulin, cirrhosis c/b persistent ascites 
despite diuretics, HE, and suspected varices (on nadolol at 
home) presented with decompensated NASH cirrhosis with 
hepatorenal syndrome. Given patient failed multiple lines of
therapy including a trial drug terlipressin, she was 
transitioned to hospice and transferred Season's in ___.

[ ] Code: DNR/DNI
[ ] CONTACT: ___, daughter, ___ 
[ ] LANGUAGE: ___ only 

Acute Issues:
=============
#Acute Kidney Injury 
#Concern for Hepatorenal syndrome 
The patient was discharged ___ from ___ on midodrine for 
management of acute kidney injury felt to possibly be secondary 
to hepatorenal syndrome. She was readmitted from clinic for 
increased ascites and need for a paracentesis. At that point, 
her Creatinine was lower than at her prior discharge (1.6 from 
1.9). She underwent a paracentesis ___. Creatinine then 
gradually increased. She was given IV albumin, octreotide and 
midodrine. Unfortunately her Creatinine continued to uptrend. 
She was then ruled in for the terlipressin trial on ___ and 
was enrolled into the study. However, her Creatinine did not 
improve while on the terlipressin trial. She was taken off of 
the study medication and restarted on midodrine and octreotide 
with ongoing worsening of her creatinine. Following several 
conversations with her family, decision was ultimately made to 
transition to CMO and she was discharged to a ___ facility. 
Her pain and comfort were treated aggressively.

#NASH Cirrhosis 
#Ascites
The patient was due for outpatient paracentesis on ___ 
however unfortunately had rapid reaccumulation of ascites and 
required a paracentesis sooner. She underwent a 6L paracentesis 
on ___ which significantly improved her symptoms. Diagnostic 
tap was negative for evidence of SBP. Due to her enrollment into 
the terlipressin trial, she was not tapped again until ___ 
when the trial was discontinued. She had another repeat 
paracentesis on ___ due to rapid reaccumulation. She was 
continued on ciprofloxacin prophylaxis while in the hospital. 
pleurX catheter was placed on ___ when she was transitioned to 
CMO. 

#Non-AGMA
Felt to be due to renal failure. She was started on oral 
bicarbonate but this was discontinued when she was made CMO.

CHRONIC ISSUES
==========================
#Diabetes. Home oral agents were held. She was placed on ISS but 
this was discontinued with transition to CMO
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rifaximin 550 mg PO BID 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
3. Ciprofloxacin HCl 500 mg PO Q24H 
4. Lactulose 15 mL PO DAILY 
5. Midodrine 15 mg PO TID 
6. Ranitidine 150 mg PO DAILY 
7. GlipiZIDE XL 5 mg PO DAILY 
8. Senna Plus (sennosides-docusate sodium) 8.6-50 mg oral BID 
9. Zaditor (ketotifen fumarate) 0.025 % (0.035 %) ophthalmic 
(eye) BID 
10. Glargine 24 Units Breakfast

 
Discharge Medications:
1.  Glycopyrrolate 0.1-0.2 mg IV Q4H:PRN excess secretions  
2.  HYDROmorphone (Dilaudid) 0.25-0.5 mg IV Q4H:PRN Pain - 
Severe 
RX *hydromorphone 0.5 mg/0.5 mL 0.25-0.5 mL every four (4) hours 
Disp #*10 Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Lactulose 15 mL PO DAILY  
5.  Midodrine 15 mg PO TID  
6.  Rifaximin 550 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
===================
1) Refractory ascites from decompensated cirrhosis
2) Hepatorenal Syndrome 
3) Non-Anion Gap Metabolic Acidosis

Secondary Diagnosis:
====================
1) Diabetes Mellitus 

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Lethargic but arousable.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Ingresó a ___ con síntomas de líquido ___ abdomen. El 
líquido fue ___ insuficiencia renal. No 
respondio a muchos medicamentos y despues de muchas 
conversaciones con ___ familia, decidimos ___ 
___.

¡Fue un placer cuidarle!

Sinceramente,
___ de atención ___.
 
Followup Instructions:
___